Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Amoxicillin / Erythromycin Base / vancomycin / Bactrim
 
Attending: ___.
 
Chief Complaint:
Fevers
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old woman s/p MVR in ___ on warfarin, s/p DCCV for
a-fib in ___, tricuspid annuloplasty, hyperlipidemia, Hx of
breast cancer, OSA, IBS and pulmonary artery hypertension who
presents to the ED for fevers. Patient reports that 5 days ago
she noted bilateral clavicle pain. Described as "achy" and
constant. Somewhat pleuritic in nature. Relieved by Tylenol.
Somewhat exacerbated by movement. Patient reports that 3 days
ago, fevers started. Denies cough, dyspnea, nasal congestion,
chest pain, abdominal pain, nausea, diarrhea, urinary frequency,
dysuria. Denies fatigues, joint pains, lightheadedness,
dizziness, vision changes, palpitations. Endorses some left calf
pain, but no other myalgias. Endorses intermittent headache for
the past five days, but no headache currently.

Patient presented to ___ urgent care in ___ yesterday.
At that time, febrile to ___. She was told to present to ___
ED given concern for endocarditis. Laboratory evaluation was
notable for absence of leukocytosis, elevated CRP to 123.2. BCx
drawn and are pending. CXR notable for postoperative changes,
increased size and globular appearance of the cardiopericardial
silhouette, may represent postoperative changes, progressed
cardiac chamber enlargement, or pericardial effusion.

Of note, patient was seen in the CDAC with similar complaints in
___. Was determined to have a viral illness at that time. TTE
in the interim did not show any evidence of vegetation.

On further review of symptoms, patient endorses 10 pound
unintentional weight loss over the past two months, which she
somewhat attributes to her post-op recovery. No recent travel, 
no
sick contacts. No obvious TB risk factors.

- In the ED, initial vitals were:
T 99.2 HR 86 BP 109/61 RR 17 O2 100% RA 

- Exam was notable for:
General: Well appearing, in NAD
HEENT: No cervical or supraclavicular LAD appreciated.
Fundoscopic exam significantly limited in ED, but no obvious 
___
spots appreciated
Cardiac: Normal rate and rhythm with occasional premature beats.
Grade ___ systolic murmur heard loudest at left parasternal
border. No rubs or gallops.
Pulm: Lungs clear to auscultation bilaterally. No increased work
of breathing.
Abdomen: Soft, nontender, nondistended
Extremities: Warm. No edema. Symmetric calves. No splinter
hemorrhages, ___ lesions, ___ nodes.
Neuro: AAOx3. Pupils equal and reactive. EOMI. Motor and sensory
function grossly intact and symmetric throughout.

- Labs were notable for:
136  99  17     
-------------<91 
4.5  25  0.8 

    8.4   
5.7>---<264  
   28.1  
 
___: 33.8  PTT: 35.1  INR: 3.1  
D-Dimer: 943 

FluAPCR: Negative 
FluBPCR: Negative

- Studies were notable for:
CTA 
1. No evidence of pulmonary embolism or aortic abnormality.
2. Bilateral small right and trace left pleural effusions.

___
No evidence of deep venous thrombosis in the left lower 
extremity
veins.

On arrival to the floor, the patient confirms the history as
above. She does note that she has felt more pain in her left
temple the last few days. Denies any jaw claudication or hip or
shoulder weakness. Last sick contact 1 month ago before her
previous fevers.
 
Past Medical History:
1.  Mitral valve replacement - #31mm ___ porcine
___ 
    with Dr. ___ @ ___
2.  Tricuspid valve annuloplasty -28 mm ___      
    Physio ring; ___  with Dr. ___ @ ___
2.  Irritable bowel syndrome
3.  Breast cancer  - s/p chemotherapy and mastectomy, ___
4.  Obstructive sleep apnea - mild; intolerant of CPAP
5.  Migraines - ___ not severe 
6.  Asthma (___)
7.  Osteoporosis
8.  Hypothyroidism
9.  Hyperlipidemia
10. Atrial fibrillation - ___, presented with L MCA stroke; 
RF
    MAZE ___ with ___ excision.
11. Left MCA stroke treated with thrombectomy - ___, ___; 
Neck
    MRA unremarkable
 
Social History:
___
Family History:
Her parents are deceased (father, ___, sudden death, 
hypertension,
CAD at autopsy; mother, ___, COPD).  She has no siblings or
children.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS: 98.5 PO 126 / 82 L Sitting 81 17 94 Ra 
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. TTP
in left temple.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Soft ejection murmur on
left sternal border
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: No clubbing, cyanosis, or edema. Mild TTP in left
calf, DIP joint slightly swollen, no warmth or tenderness
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM
======================
VITALS: 24 HR Data (last updated ___ @ 800)
    Temp: 98.1 (Tm 98.7), BP: 109/63 (105-129/54-76), HR: 79
(76-87), RR: 16 (___), O2 sat: 98% (95-98), O2 delivery: Ra,
Wt: 105.38 lb/47.8 kg  

GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. TTP
in left temple. 
NECK/SHOULDER: Slightly tender clavicles bilaterally. No 
cervical
lymphadenopathy.
CARDIAC: Regular rhythm, normal rate. Healing incision on
anterior chest w/out surrounding erythema or tenderness
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, non distended, non-tender to deep
palpation in all four quadrants.
EXTREMITIES: No clubbing, cyanosis, or edema. Mild TTP in left
calf, DIP joint slightly swollen, no warmth or tenderness, no
___ lesion, no splinter hemorrhages
SKIN: Warm. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs
spontaneously. ___ strength throughout. Normal sensation.
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:20PM BLOOD WBC-7.1 RBC-3.03* Hgb-8.0* Hct-25.4* 
MCV-84 MCH-26.4 MCHC-31.5* RDW-15.1 RDWSD-45.8 Plt ___
___ 06:20PM BLOOD Neuts-77.7* Lymphs-9.3* Monos-10.6 
Eos-1.7 Baso-0.3 Im ___ AbsNeut-5.48 AbsLymp-0.66* 
AbsMono-0.75 AbsEos-0.12 AbsBaso-0.02
___ 06:08AM BLOOD H/O Smr-AVAILABLE 
___ 06:20PM BLOOD ___ PTT-34.8 ___
___ 06:20PM BLOOD cTropnT-<0.01
___ 06:20PM BLOOD CRP-123.2*

PERTINENT LABS
=============
___ 05:45PM BLOOD Glucose-91 UreaN-17 Creat-0.8 Na-136 
K-4.5 Cl-99 HCO3-25 AnGap-12
___ 05:45PM BLOOD D-Dimer-943*
___ 06:08AM BLOOD Albumin-3.2* Calcium-8.7 Phos-3.1 Mg-1.9 
Iron-16*
___ 06:08AM BLOOD calTIBC-339 Ferritn-53 TRF-261
___ 06:08AM BLOOD ALT-12 AST-17 AlkPhos-69 TotBili-0.4

DISCHARGE LABS
==============
___ 05:30AM BLOOD WBC-3.8* RBC-3.19* Hgb-8.3* Hct-27.6* 
MCV-87 MCH-26.0 MCHC-30.1* RDW-15.3 RDWSD-47.8* Plt ___
___ 05:30AM BLOOD Neuts-57.2 ___ Monos-14.2* 
Eos-7.7* Baso-0.5 AbsNeut-2.17 AbsLymp-0.76* AbsMono-0.54 
AbsEos-0.29 AbsBaso-0.02
___ 05:30AM BLOOD ___
___ 05:30AM BLOOD Glucose-94 UreaN-12 Creat-0.8 Na-139 
K-4.6 Cl-106 HCO3-24 AnGap-9*
___ 05:30AM BLOOD Calcium-8.7 Phos-3.5 Mg-2.1

IMAGING
=======
Bilateral temporal artery dopplers: IMPRESSION: No B-mode or 
spectral Doppler evidence of temporal arteritis in either right
or left.

CTA chest: IMPRESSION:
1. No evidence of pulmonary embolism or aortic abnormality.
2. Small pleural effusions.
3. Cardiomegaly with notable biatrial chamber enlargement and 
evidence of
prior tricuspid valve replacement.
4. Emphysema with mild basal dependent atelectasis.
5. Mildly dilated main pulmonary artery, please correlate for 
pulmonary

Left lower extremity veins
IMPRESSION: 
No evidence of deep venous thrombosis in the left lower 
extremity veins.
 
Brief Hospital Course:
SUMMARY
========
Ms. ___ is a ___ year old woman s/p MVR, tricuspid annuloplasty, 
MAZE and left atrial appendage ablation in ___ on warfarin, 
s/p DCCV for atrial fibrillation in ___, hyperlipidemia, with 
of breast cancer s/p chemotherapy and surgery ___ and ___ 
arimidex, OSA intolerant of CPAP, and pulmonary artery 
hypertension who presented with recurrent fevers, bilateral 
sub-clavicular pain, and L calf pain. Despite workup, no cause 
was found for her fevers; TEE remains to be done outpatient. She 
was also found to have hematuria with unremarkable sediment.

#Recurrent Fevers
Patient reported fevers up to ___ for 9 days preceding 
admission, and 1 week of similar fevers in ___ which was 
attributed to viral illness. There was initial concern for 
temporal arteritis given L temporal soreness, fevers, and 
elevated CRP/ESR. Rheumatology was consulted and the decision 
was made to defer steroids as GCA was unlikely (no visual loss, 
jaw claudication, progression, or other features c/w 
vasculitis). Malignancy was considered but thought to also be 
less likely given unremarkable differential, absence of LAD, and 
no concerning findings on admission CT chest. Does have a remote 
history of breast cancer, but no signs of recurrence, no 
lymphadenopathy. Also closely followed with breast 
MR/mammography. Workup for infection included blood cultures 
without growth, CT chest and CXR without acute process, UCx 
without growth, skin was unremarkable, and she had no oral 
lesions. The fact that she remained in sinus rhythm after recent 
cardioversion is also somewhat reassuring against infection. She 
did not experience any other localizing signs or symptoms of 
infection. Reassuringly, no current stigmata of endocarditis, 
though could be subacute presentation or localized abscess. She 
does meet 2 Duke minor criteria. CTA without signs of PE and 
___ negative for DVT. No signs of infection on CXR and UA 
without signs of infection although some hematuria that's been 
improved. 
She will have a TEE outpatient, and blood cultures must be 
followed up. 

#Hematuria
Hematuria on UA with sediment showing elevated RBCs, none 
dysmorphic, no casts. Protein/Cr ratio of 0.3 but improved to 
0.2 on recheck. She has no signs of symptoms of cystitis, though 
did recently have UTI at rehab s/p antibiotics. Recommend a U/A 
be repeated in ___ weeks as this microscopic hematuria could be 
related to her recent infection.

#MVP s/p mitral valve bioprosthesis (___)
#Tricuspid regurgitation s/p annuloplasty (___)
Currently doing well after surgery. High CRP may be explained by
recent surgery. Continued warfarin with goal INR ___, Aspirin 81 
mg PO DAILY.

#Atrial fibrillation s/p MAZE, left atrial appendage ablation 
(___) and s/p DCCV (___)
Currently in sinus rhythm. Continued Warfarin, goal INR ___. 
Continued
atenolol 12.5mg daily.

#Chronic Iron Deficiency Anemia
Hgb stable since ___ at which time Dr. ___ her to 
start taking iron supplementation.

CHRONIC/STABLE ISSUES:
======================
#Hypothyroidism
Continued Levothyroxine Sodium 137 mcg PO 
___. 

#Anxiety
#Depression
Continued BuPROPion 75 mg PO DAILY, LORazepam 0.5 mg PO BID, 
Escitalopram Oxalate 20 mg PO QPM.

#Pulmonary HTN
#OSA
Follows with pulmonology as outpatient, suspected to be ___ to
valvular disease more so than OSA. Continue follow-up with pulm

#HLD
Continued atorvastatin 40mg daily

#Hx L MCA CVA
Continued aspirin and atorvastatin daily.

TRANSITIONAL ISSUE
===================
- TEE was requested at earliest opportunity to exonerate valves 
as possible source of infection, though only meeting two minor 
Duke criteria: mechanical valve, fever. Cards will call to 
schedule her.
- Outpatient sleep study and trial of newer CPAP devices, jaw 
advancement devices, may benefit patient.
- Recommend a U/A be repeated in ___ weeks as this microscopic 
hematuria could be related to her recent infection.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin 3 mg PO DAILY16 
2. Omeprazole 20 mg PO DAILY 
3. Atenolol 12.5 mg PO DAILY 
4. Levothyroxine Sodium 137 mcg PO 6X/WEEK (___) 
5. BuPROPion 75 mg PO DAILY 
6. LORazepam 0.5 mg PO BID 
7. Citracal + D Maximum (calcium citrate-vitamin D3) 630 500 
mg/iu oral BID 
8. Aspirin 81 mg PO DAILY 
9. Atorvastatin 40 mg PO QPM 
10. Escitalopram Oxalate 20 mg PO QPM 
11. Docusate Sodium 200 mg PO QPM 
12. erythromycin-benzoyl peroxide ___ % topical QPM 
13. hydrocortisone-pramoxine ___ % topical QPM 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atenolol 12.5 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  BuPROPion 75 mg PO DAILY  
5.  Citracal + D Maximum (calcium citrate-vitamin D3) 630 500 
mg/iu oral BID  
6.  Docusate Sodium 200 mg PO QPM  
7.  erythromycin-benzoyl peroxide ___ % topical QPM  
8.  Escitalopram Oxalate 20 mg PO QPM  
9.  hydrocortisone-pramoxine ___ % topical QPM  
10.  Levothyroxine Sodium 137 mcg PO 6X/WEEK (___) 
 
11.  LORazepam 0.5 mg PO BID  
12.  Omeprazole 20 mg PO DAILY  
13.  Warfarin 3 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fevers of unknown origin

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a privilege caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You had fevers to 102  

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- Blood cultures, urine cultures, and chest CT were performed 
without revealing a cause of the fevers
- transesophageal echocardiogram could not be performed until 
___, and since you were feeling well, with no fevers, 
normal white blood cell count, it was felt safe for you to go 
home with close follow-up and to return for the echocardiogram 
as an outpatient.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- Please monitor your temperature and if you start to have 
fevers again please call your doctor.
- Please be sure to attend your follow-up appointments. Your 
echocardiogram is being arranged for you. 

We wish you the best.

Sincerely,  
Your ___ Team  

 
Followup Instructions:
___